US07396958B2
2-methoxy-6-(2-phenylethyl)aniline
2.25 g of 1-methoxy-2-nitro-3-[(E)-2-phenylvinyl]benzene are added to 0.18 g of palladium-on-charcoal (10%) suspended in 90 ml of methanol, and placed under 4 bar of hydrogen. After 18 hours, the reaction medium is filtered through talc and the filtrate is concentrated to give 2.115 g of the expected product.

reactant | 1-methoxy-2-nitro-3-[(E)-2-phenylvinyl]benzene | 2.25 g | COC1=C(C(=CC=C1)\C=C\C1=CC=CC=C1)[N+](=O)[O-] | C15H13NO3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 90 ml | CO | CH4O
catalyst | palladium-on-charcoal | 0.18 g | [Pd] | Pd
product | 2-methoxy-6-(2-phenylethyl)aniline | 2.115 g | COC1=C(N)C(=CC=C1)CCC1=CC=CC=C1 | C15H17NO
